US04338333
4-(4-Carbomethoxymethoxyphenyl) butan-2-one
A solution of 4-(4-hydroxyphenyl) butan-2-one (16.4 g), methyl bromoacetate (15.3 g, 8.5 ml), potassium carbonate (13.8 g) and a trace of potassium iodide in acetone (200 ml) was heated under reflux for 16 hours. The solution was filtered, evaporated and the residue dissolved in ether. The ether solution was shaken successively with 2 N sodium hydroxide solution, water, dried (MgSO4) and evaporated to give the title compound as an oil (19.5 g).

reactant | 4-(4-hydroxyphenyl) butan-2-one | 16.4 g | OC1=CC=C(C=C1)CCC(C)=O | C10H12O2
reactant | methyl bromoacetate | 8.5 ml, 15.3 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-(4-Carbomethoxymethoxyphenyl) butan-2-one | 19.5 g | C(=O)(OC)COC1=CC=C(C=C1)CCC(C)=O | C13H16O4
